US08377923B2
Ammonium formate (500 mg) and 10% palladium carbon (270 mg) were added to a solution of 2-chloro-5-(trifluoromethyl)isonicotinic acid (1.04 g) in methanol (10 ml), followed by stirring at room temperature for 13 hours. An insoluble substance was removed by celite filtration and the filtrate was concentrated. Thionyl chloride (5 ml) was added to a solution of the resulting residue in methanol (30 ml), followed by heating to reflux for 15 hours. The reaction solution was concentrated, an aqueous saturated sodium hydrogen carbonate solution was added thereto, followed by extraction with ethyl acetate, the organic layer was washed with saturated brine and then dried over anhydrous magnesium sulfate, and the solvent was evaporated to obtain methyl 3-(trifluoromethyl)isonicotinate (463 mg) as an orange solid.

reactant | Ammonium formate | 500 mg | C(=O)[O-].[NH4+]
reactant | 2-chloro-5-(trifluoromethyl)isonicotinic acid | 1.04 g | ClC=1C=C(C(=O)O)C(=CN1)C(F)(F)F | C7H3ClF3NO2
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium carbon | 270 mg | [C].[Pd]
product | methyl 3-(trifluoromethyl)isonicotinate | 463 mg | FC(C1=C(C(=O)OC)C=CN=C1)(F)F | C8H6F3NO2
